US07482341B2
2,5-Difluoro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine (0.058 g) and 2,5-difluoro-benzenesulfonyl chloride (0.058 g) as a light yellow gum (0.075 g). MS (ESI−): 407.2 ([M−H]−)

reactant | 6-(4-fluoro-benzyloxymethyl)-pyridin-2-ylamine | 0.058 g | FC1=CC=C(COCC2=CC=CC(=N2)N)C=C1 | C13H13FN2O
reactant | 2,5-difluoro-benzenesulfonyl chloride | 0.058 g | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | 2,5-Difluoro-N-[6-(4-fluoro-benzyloxymethyl)-pyridin-2-yl]-benzenesulfonamide | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=NC(=CC=C1)COCC1=CC=C(C=C1)F | C19H15F3N2O3S
